US08975265B2
1-[4-(3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutylamine
To a mixture of crude {1-[4-(3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (390 mg) in DCM (0.9 mL) and methanol (0.57 mL) was added a solution of 4 M hydrogen chloride in dioxane (1.77 mL) and the mixture was stirred overnight at rt. The mixture was poured onto ice, made alkaline with aqueous sodium hydroxide (2 N) and extracted three times with a mixture of DCM/methanol. The combined organic phases were washed with brine, dried and concentrated in vacuo to give the crude title compound as a yellow oil. Purification was achieved by chromatography [amino phase silica; gradient elution: hexane to EtOAc], followed by trituration with diisopropylether at 0° C. to give the title compound (21.9 mg).

reactant | {1-[4-(3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 390 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC=N2)C1C1=CC=CC=C1)=O | C27H28N4O2
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | DCM | 0.9 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.57 mL | CO | CH4O
solvent | dioxane | 1.77 mL | O1CCOCC1 | C4H8O2
product | 1-[4-(3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutylamine | 21.9 mg | C1(=CC=CC=C1)C1=C(N=C2N1C=CC=N2)C2=CC=C(C=C2)C2(CCC2)N | C22H20N4
